US03969402
By methods analogous to 2'described in Example 1 (a) and (b), 4-iodo-3-methoxy anisole and 4'-bromo-3'-nitroacetophenone were reacted to give the novel intermediate 4-acetyl-2',4'-dimethoxy-2-nitrobiphenyl, m.p. 129° - 131°C. which was converted to the novel intermediate 4acetyl-2-amino-2;40 ,4'-dimethoxybiphenyl, m.p. 149° - 151°C. This (15.7 g.) was diazotized and the diazonium solution added slowly to a solution of cuprous chloride (7.5 g.) in 4N hydrochloric acid (70 ml.) at 0°C. The mixture was warmed to room temperature over 1 hour and then heated for a further hour on a steam bath. The solution was cooled and made alkaline (pH14) with 18N caustic soda. The product was extracted with methylene chloride, the extract dried and the solvent evaporated off to give a brown oil which was extracted with ether. The ether was evaporated and the residual oil distilled and the distillate recrystallised from isopropanol to give the novel intermediate 4-acetyl-2-chloro-2',4'-dimethoxybiphenyl m.p. 115° - 118°C. By methods analogous to those described in Example 1 (d) and 1 (e) this was converted to crude 2-(2-chloro-2',4'-dimethoxy-4-biphenylyl)propionaldehyde and thence to the novel intermediate 2-(2-chloro-2',4'-dimethoxy-4-biphenylyl) propionic acid, obtained as an oil.

reactant | 4-iodo-3-methoxy anisole | IC1=C(C=C(C=C1)OC)OC | C8H9IO2
reactant | 4'-bromo-3'-nitroacetophenone | BrC1=C(C=C(C=C1)C(C)=O)[N+](=O)[O-] | C8H6BrNO3
product | 4-acetyl-2',4'-dimethoxy-2-nitrobiphenyl | C(C)(=O)C1=CC(=C(C=C1)C1=C(C=C(C=C1)OC)OC)[N+](=O)[O-] | C16H15NO5
